US07563908B2
2-(1H-Indol-3-ylsulfanyl)-N,N-dimethyl benzamide
N,N,N′,N′-Tetramethyl-2,2′-dithiodibenzamide (Elworthy, Todd R.; Ford, Anthony P. D. W.; Bantle, Gary W.; Morgans, David J.; Ozer, Rachel S.; et al. J. Med. Chem. 40, 1997, 2674-2687) (12.80 g, 35.5 mmol) was dissolved in 1,2-dichloroethane (200 mL) under Ar, and sulfurylchloride (2.9 mL, 4.84 g, 35.9 mmol) was carefully added with stirring under Ar. The reaction mixture was stirred for 15 min at room temperature and the resulting solution was added slowly (dropwise) to an icecold solution (0° C.) of indole (8.4 g, 71.7 mmol) in dry DMF (180 mL) under Ar. The mixture was stirred at 0° C. under Ar for 2.5 hours and then quenched by addition of water (180 mL) and sat. aqueous NaHCO3 (150 mL). To the resulting emulsion was added ethyl acetate (250 mL). The organic phases were combined and washed with brine (100 mL). The water phase was further extracted with ethyl acetate (2×100 mL) and the combined organic phases were washed with brine and dried over MgSO4 and evaporated in vacuo to a dark orange oil which crystallized upon standing. The product was purified and isolated by recrystallisation (acetonitrile) to give 5.53 g (26%) crystalline product (m.p. 195.6-197.6° C.). From the motherliq. was further 4.45 g (21%) product isolated (m.p. 194.3-196.4° C.).

reactant | N,N,N′,N′-Tetramethyl-2,2′-dithiodibenzamide | 35.5 mmol, 12.80 g | CN(C(C1=C(C=CC=C1)SSC1=C(C(=O)N(C)C)C=CC=C1)=O)C | C18H20N2O2S2
reactant | sulfurylchloride | 35.9 mmol, 2.9 mL, 4.84 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | indole | 71.7 mmol, 8.4 g | N1C=CC2=CC=CC=C12 | C8H7N
solvent | 1,2-dichloroethane | 200 mL | ClCCCl | C2H4Cl2
solvent | DMF | 180 mL | CN(C)C=O | C3H7NO
product | 2-(1H-Indol-3-ylsulfanyl)-N,N-dimethyl benzamide | 5.53 g, 26% | N1C=C(C2=CC=CC=C12)SC1=C(C(=O)N(C)C)C=CC=C1 | C17H16N2OS
